US07776878B2
Polymer supported borohydride (706 mg, 1.8 mmol) was added to a mixture of 2-[3-(2-methoxy-ethoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine (50 mg, 0.18 mmol) and benzaldehyde (18mg, 0.18 mmol) in methanol (3 mL). The mixture was stirred for 16 hours, filtered, concentrated in vacuo and purified by preparative HPLC to afford benzyl-{2-[3-(2-methoxy-ethoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-amine (4.4 mg, 7%)

reactant | borohydride | 1.8 mmol, 706 mg | [BH4-]
reactant | 2-[3-(2-methoxy-ethoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-ylamine | 0.18 mmol, 50 mg | COCCOC=1C=C(C=CC1)C1=CC=2C(=NC=C(C2)N)N1 | C16H17N3O2
reactant | benzaldehyde | 0.18 mmol, 18mg | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 3 mL | CO | CH4O
product | benzyl-{2-[3-(2-methoxy-ethoxy)-phenyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-amine | 4.4 mg, 7% | C(C1=CC=CC=C1)NC=1C=C2C(=NC1)NC(=C2)C2=CC(=CC=C2)OCCOC | C23H23N3O2
